US08686152B2
To a solution of 4-biphenyl-4-ylmethyl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (11.4 mmol; 4.65 g) in THF (30 mL) and methanol (20 mL) was added a 1M solution of sodium hydroxide (28.4 mmol; 28.4 mL) and the resulting mixture was heated to reflux for 48 hours. The resulting mixture was then evaporated and a 1N hydrochloric acid solution (200 mL) was added to the residue. A white precipitate formed that was separated via filtration to yield 4-biphenyl-4-ylmethyl-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester. MS (ESI) m/z 395.76 [M+H]+.

reactant | 4-biphenyl-4-ylmethyl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 11.4 mmol, 4.65 g | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=CC=CC=C1 | C25H31NO4
reactant | sodium hydroxide | 28.4 mmol, 28.4 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
product | 4-biphenyl-4-ylmethyl-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C24H29NO4
